2111-04-20 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SOB
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2111-4-19**] 09:20 AM
 NON-INVASIVE VENTILATION - START [**2111-4-19**] 11:20 AM
   -- unable to get CTA to assess for PE given respiratory distress with
   lying flat
   -- LENI's negative for DVT
   -- Echo with bubble ordered (to be done Monday morning)
   -- Radiology recommended CT chest to evaluate possible lung nodule
   -- continued on intermittent BiPAP
   -- required ativan 0.25 mg IV x 3
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-18**] 10:00 PM
   Ceftriaxone - [**2111-4-18**] 11:05 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-4-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-20**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 79 (78 - 105) bpm
   BP: 130/54(70) {107/49(65) - 135/76(87)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,299 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                  2,299 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    190 mL
   Urine:
                                                                  1,150 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,149 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 644 (644 - 1,136) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.42/39/191//1
   Ve: 12.5 L/min
   PaO2 / FiO2: 478
   Physical Examination
   GENERAL: cachectic, comfortable on BIPAP
   HEENT: NC/AT, PERRL, OP clear, MM dry
   CARDIAC: s1/s2 present, -mrg
   LUNG:  RLL inspiratory wheeze, good air movement
   ABDOMEN: +BS, soft, non-tender
   EXT: no LE edema, 2+ pulses
   NEURO: AOx3, 5/5 strength in all 4 ext
   DERM: no skin lesions
   Labs / Radiology
   MICRO:
   [**2111-4-19**] Blood cx: pending
   [**2111-4-19**] Urine cx: pending
   IMAGING:
   [**2111-4-19**] Bilateral LE US: No evidence of DVT.
   162 K/uL
   11.4 g/dL
   145 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.3 mEq/L
   34 mg/dL
   104 mEq/L
   138 mEq/L
   34.9 %
   10.1 K/uL
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
   WBC
   10.1
   Hct
   34.9
   Plt
   162
   Cr
   1.4
   1.5
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   Glucose
   130
   145
   Other labs: PT / PTT / INR:14.3/50.1/1.2, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:9.1 mg/dL, Mg++:2.9
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   This is a 76 yo male with history of severe COPD on home O2 presenting
   with acute onset of SOB and CP while at rest.
   .
   # Acute Onset SOB: Possible etiologies include PE, ACS, mucous plug.
   PNA possible though unusual that onset as acute. Currently more
   comfortable on BIPAP with improved ABG.
   --cont BIPAP
   --heparin gtt
   --CTA when respiratory status more stable
   --ROMI
   --repeat ECG in am
   --given fever treat empirically for CAP with Levofloxacin
   .
   # CP: Currently resolved. Denies any CAD history. Risk factors for CAD
   include male gender, age, smoking history. ECG appears unchanged from
   prior. Trop leak certainly concerning for ACS vs demand ischemia.
   --ASA given in ED
   --Cycle CE's
   --Getting heparin gtt as per above
   --repeat ECG in am
   --Avoid BBs given severe COPD
   --nitro PRN CP
   .
   # Tachycardia: Sinus tach. Appears he has been in sinus tach
   previously. Reports he is on Dilt though unclear of dose.
   --anxiety likely worsening
   --start low dose dilt 30 QID until actual dose known
   --monitor on tele
   .
   # Leukocytosis: Without leftward shift. Though febrile on admission.
   --cover empirically for CAP
   --BCs, UA/Ucx
   --cont to monitor
   .
   # ARF: Baseline in [**2110**] closer to 1.2. Pt appears very dry, decreased
   skin turgor.
   --fluid repletion
   --trend Cr
   --renally dose meds
   .
   # COPD: Atrovent/Albuterol nebs. Hold spiriva for now
   .
   # Anxiety: Determine home dose of Zoloft. Small doses ativan PRN
   agitation.
   ICU Care
   Nutrition: NPO while on BIPAP
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-4-18**] 10:44 PM
   20 Gauge - [**2111-4-18**] 11:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  patient
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-4-18**] 10:44 PM
   20 Gauge - [**2111-4-18**] 11:23 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending respiratory status possible to floor today

2111-04-20 12:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   LENIs negative
   Unable to get CTA
   awaiting TTE with bubble
   Increased anxiety overnight required addtional ativan bolus
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-18**] 10:00 PM
   Ceftriaxone - [**2111-4-18**] 11:05 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-4-20**] 05:00 AM
   Other medications:
   levoflox
   atrovent
   albuterol
   dilt 240
   sertraline 75 qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-20**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 97 (78 - 120) bpm
   BP: 134/66(85) {109/48(65) - 157/81(98)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,299 mL
                                                                    227 mL
   PO:
             TF:
   IVF:
                                                                  2,299 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    330 mL
   Urine:
                                                                  1,150 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,149 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Face tent, Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,025 (644 - 1,025) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/39/191/19/1
   Ve: 7.4 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General: short of breath, speaking in short sentences
   HEENT: PERRL, EOMI, normal appearing OP
   CV: S1/S2 distant
   CHEST: decreased breath sounds at the bases with diminished air
   movement, expiratory wheeze mid-way bilaterally, prolonged expiratory
   phase with pursed-lip breathing
   ABD: soft, nt, nd
   EXT: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   Not present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  cool and dry
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   213 K/uL
   102 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.5 mEq/L
   40 mg/dL
   109 mEq/L
   140 mEq/L
   32.2 %
   15.0 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
   WBC
   10.1
   15.0
   Hct
   34.9
   32.2
   Plt
   162
   213
   Cr
   1.4
   1.5
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   Glucose
   130
   145
   102
   Other labs: PT / PTT / INR:13.0/55.5/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   76 yo M with severe COPD, CAD who presents with shortness of breath and
   chest pain.
   1. SHortness of breath: worsened shortness of breath : pneumonia vs PE
   vs COPD exacerbation
    - will start solumedrol 125 q 6
    - cont levaquin 750 qday
    - cont standing nebs, bipap, inhaled CS
    - PE CT when able to lie flat
    - cont heparin gtt for empiric PE and change to lovenox
    -
   2. CAD:
    - enzymes trending down
    - cont asa
   3. AFib: dilt
   4. FEN: PICC consult for TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-4-18**] 10:44 PM
   20 Gauge - [**2111-4-18**] 11:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2111-04-21 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2111-4-20**] 02:14 PM
   Buble study
   -intermittent BiPAP throughout day, and overnight
   -solumedrol started
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2111-4-18**] 11:05 PM
   Levofloxacin - [**2111-4-20**] 10:19 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2111-4-20**] 08:16 AM
   Furosemide (Lasix) - [**2111-4-20**] 03:00 PM
   Enoxaparin (Lovenox) - [**2111-4-21**] 12:11 AM
   Lorazepam (Ativan) - [**2111-4-21**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-21**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 111 (82 - 111) bpm
   BP: 153/65(87) {114/44(60) - 170/98(100)} mmHg
   RR: 28 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    476 mL
                                                                     79 mL
   PO:
             TF:
   IVF:
                                                                    476 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    420 mL
   Urine:
                                                                  1,330 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -854 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,025 (1,025 - 1,025) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.31/45/211/24/-3
   Ve: 11.1 L/min
   PaO2 / FiO2: 527
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   10.2 g/dL
   108 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.9 mEq/L
   47 mg/dL
   107 mEq/L
   141 mEq/L
   31.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
                             [**2111-4-20**]  03:11 PM
                             [**2111-4-21**]  03:45 AM
   WBC
   10.1
   15.0
   6.1
   Hct
   34.9
   32.2
   31.1
   Plt
   162
   213
   185
   Cr
   1.4
   1.5
   1.2
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   24
   Glucose
   130
   145
   102
   108
   Other labs: PT / PTT / INR:13.0/38.3/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   This is a 76 yo male with history of severe COPD on home O2 presenting
   with acute onset of SOB and CP while at rest.
   # Acute Onset SOB: Cont to have significant difficulty breathing.
   Possible etiologies include PE, ACS, PNA
   - start steroids 80mg Q8 for possible COPD exacerbation given airway
   resistance on exam
   --cont O2 via face tent
   --therapeutic Lovenox until able to get CTA Chest
   --given fever treat empirically for CAP with Levofloxacin
   # CP: No further CP. Elevated CEs likely demand ischemia.
   --f/u ECHO
   --Getting heparin gtt as per above
   --Continue home diltiazem
   # Leukocytosis: Persists. Febrile on presentation; afebrile overnight.
   --cont cover empirically for CAP with levaquin
   --send sputum cx
   --BCs, UA/Ucx
   # ARF: Cr returned to baseline
   -keep fluids even.
   # COPD: Atrovent/Albuterol nebs. Hold spiriva for now. Starting
   steroids today.
   # Anxiety:Continue home zoloft. Small doses ativan PRN agitation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-4-18**] 10:44 PM
   20 Gauge - [**2111-4-18**] 11:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2111-04-21 10:30:00 Physician Attending Progress Note
Chief Complaint:  Respiratory Distress
   HPI: COPD flare, NSTEMI
   24 Hour Events:
   Intermittent Bipap overnight, overall breathing feels a little better
   Solumedrol started in high dose
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2111-4-18**] 11:05 PM
   Levofloxacin - [**2111-4-20**] 10:19 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-20**] 03:00 PM
   Enoxaparin (Lovenox) - [**2111-4-21**] 12:11 AM
   Lorazepam (Ativan) - [**2111-4-21**] 12:11 AM
   Other medications:
   levoflox 750 q 48
   atrovent
   albuterol
   advair 250/50 [**Hospital1 **]
   diltiazem 240 qday
   zoloft 75
   methylprednisone 80 mg q 8
   asa
   enoxaparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-21**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 88 (82 - 111) bpm
   BP: 122/60(73) {114/44(60) - 170/98(100)} mmHg
   RR: 20 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    476 mL
                                                                    211 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    476 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    540 mL
   Urine:
                                                                  1,330 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -854 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,025 (1,025 - 1,025) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 3L NC + 98% FT
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.31/45/211/24/-3
   Ve: 11.1 L/min
   PaO2 / FiO2: 527
   Physical Examination
   General Appearance: No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   185 K/uL
   108 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.9 mEq/L
   47 mg/dL
   107 mEq/L
   141 mEq/L
   31.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
                             [**2111-4-20**]  03:11 PM
                             [**2111-4-21**]  03:45 AM
   WBC
   10.1
   15.0
   6.1
   Hct
   34.9
   32.2
   31.1
   Plt
   162
   213
   185
   Cr
   1.4
   1.5
   1.2
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   24
   Glucose
   130
   145
   102
   108
   Other labs: PT / PTT / INR:13.0/38.3/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Microbiology: blood cx pending
   Assessment and Plan
   76 yo M with emphysema here w SOB
   1. Respiratory failure: COPD flare vs PE vs ACS
    - Prednisone 60 mg
    - cont lovenox for now, f/u PE CT when able to lay flat
    - PE ct with ativan premedication if patient can tolerate lying flat
   this am
    - cont TBB negative
    - cont levaquin
    - sputum culture if possible
   2. ACS: troponin leak
    - cont asa, lovenox, dilt
    - repeat TTE and possible ett as outpatient
   3. anxiety: cont zoloft, ativan for procedure
   4. FEN: tpn, trial POs today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-4-18**] 10:44 PM
   20 Gauge - [**2111-4-18**] 11:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU for now
   Total time spent: 45 minutes
   Patient is critically ill

2111-04-22 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --CTA chest negative for PE, stopped lovenox
   --Updated PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) **]
   [**Name (STitle) 12303**] would like to discuss code status in more detail with his wife and
   PCP before changing his current code status.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-20**] 10:19 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-21**] 06:40 PM
   Lorazepam (Ativan) - [**2111-4-21**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-22**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.7
   HR: 112 (81 - 112) bpm
   BP: 145/70(86) {107/45(62) - 164/70(92)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,274 mL
                                                                    317 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    602 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    480 mL
   Urine:
                                                                  1,610 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -336 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GEN:NAD, AOx3
   HEENT:MMM
   PULM: decreased air movement at L base, respirations appear comfortable
   EXT: wwp, no c/c/e
   Labs / Radiology
   202 K/uL
   9.8 g/dL
   147 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   56 mg/dL
   110 mEq/L
   146 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
                             [**2111-4-20**]  03:11 PM
                             [**2111-4-21**]  03:45 AM
                             [**2111-4-22**]  04:32 AM
   WBC
   10.1
   15.0
   6.1
   8.2
   Hct
   34.9
   32.2
   31.1
   31.1
   Plt
   162
   213
   185
   202
   Cr
   1.4
   1.5
   1.2
   1.2
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   24
   Glucose
   130
   145
   102
   108
   147
   Other labs: PT / PTT / INR:13.0/38.3/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:9.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 76 yo male with history of severe COPD on home O2 presenting
   with acute onset of SOB and CP while at rest.
    # Acute Onset SOB: Unclear etiology given CTA negative for PE and no
   e/o ACS. Pt has experienced exacerbation of severe emphysema improved
   since beginning IV steroids.
   -lovenox stopped
   -cont 60mg po daily of prednisone
   -given no e/o PNA on CTA chest will DC levoflox
   # CP: No further CP. Elevated CEs likely demand ischemia.
   -repeat ECHO outpt as well as likely stress test
   # Nutrition: TPN begun yesterday, stop TPN
   -restart Megace
   # Anxiety:Continue home zoloft. Small doses ativan PRN agitation
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2111-4-21**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined Mr [**Known lastname 12244**]. He can now lay flat without
   significant distress. His CT did not show signs for PE but he does have
   a left basilar effusion / atelectasis. He has good AE at right base.
   His appetitie is better with steroids. He is quite frail. He has
   advanced fibrotic emphysema in all lung fields and a dilated RV. He is
   best served by transfer to rehab from ICU setting and will need slow
   steroid taper over next 2 weeks as his improves. PICC line to be kept
   in place for now should he need TPN.
   His PCP, [**Name10 (NameIs) **] [**Last Name (STitle) **], has been updated regarding his course.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Time spent: 25 mins
   Pulmonary, Critical Care and Sleep Medicine.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2111-4-22**] 12:54 ------

2111-04-23 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SOB
   24 Hour Events:
   [**2111-4-22**]:
   --Intiated screening for rehab
   --PT/OT consulted
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-22**] 09:55 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-4-22**] 08:19 AM
   Lorazepam (Ativan) - [**2111-4-22**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-22**] 09:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-23**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 83 (83 - 112) bpm
   BP: 125/51(69) {116/51(69) - 177/92(109)} mmHg
   RR: 18 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,207 mL
                                                                     59 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    341 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  1,232 mL
                                                                    320 mL
   Urine:
                                                                  1,232 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GEN:NAD, AOx3
   HEENT:MMM
   PULM: decreased air movement at L base, respirations appear
   comfortable, less wheezy
   EXT: wwp, no c/c/e
   Labs / Radiology
   206 K/uL
   9.6 g/dL
   117 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   68 mg/dL
   112 mEq/L
   145 mEq/L
   28.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
                             [**2111-4-20**]  03:11 PM
                             [**2111-4-21**]  03:45 AM
                             [**2111-4-22**]  04:32 AM
                             [**2111-4-23**]  03:38 AM
   WBC
   10.1
   15.0
   6.1
   8.2
   7.5
   Hct
   34.9
   32.2
   31.1
   31.1
   28.9
   Plt
   162
   213
   185
   202
   206
   Cr
   1.4
   1.5
   1.2
   1.2
   1.2
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   24
   Glucose
   130
   145
   102
   108
   147
   117
   Other labs: PT / PTT / INR:13.0/38.3/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:9.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   This is a 76 yo male with history of severe COPD on home O2 presenting
   with acute onset of SOB and CP while at rest.
    # Acute Onset SOB:  L flank pain may have been related to L pleural
   effusion which may be parapneumonic. Since admission pt has experienced
   exacerbation of severe emphysema improved since beginning IV steroids.
   -cont slow prednisone taper
   -complete 7 day course of levofloxacin given concern that effusion
   related to a PNA (last dose [**2111-4-24**])
   .
   # COPD/Emphysema:  Respiratory status improved
   -Cont slow prednisone taper (60x4 days,40x4 days 20x4days,etc)
   -Cont nebs
   .
   # CP: No further CP. Elevated CEs likely demand ischemia.
   -repeat ECHO outpt as well as likely stress test
   .
   # Anemia: Patient
s hematocrit continues to trend down.
   - guiac stools
   - add on iron studies, retic ct
   .
   # Nutrition: Stopped TPN as pt
s appetitie improving
   -restart Megace
   # Anxiety:Continue home zoloft. Small doses ativan PRN agitation
   .
   #Disposition: PT/OT eval today. Encourage OOB. Being screened for
   rehab.
   ICU Care
   Nutrition: Stop TPN. Cont regular diet. Getting megace.
   Glycemic Control:
   Lines:
   PICC Line - [**2111-4-21**] 10:00 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now. Being screened for rehab.

2111-04-23 11:13:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, left LL pna/ effusion
   24 Hour Events:
   coughing after eating with desaturation and possible aspiration event
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-22**] 09:55 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-4-22**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2111-4-23**] 08:49 AM
   Other medications:
   levaquin
   albuterol
   atrovent
   advair [**Hospital1 **]
   dilt xr 240 qday
   sertraline 75 qday
   asa 325 qday
   pred 60 qday
   pepcid 20 qday
   heparin
   megace 20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-23**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 84 (83 - 112) bpm
   BP: 125/67(80) {117/49(66) - 177/92(109)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,207 mL
                                                                    109 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    341 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,232 mL
                                                                    620 mL
   Urine:
                                                                  1,232 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                   -511 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiration)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Decreased
   Labs / Radiology
   9.6 g/dL
   206 K/uL
   117 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   68 mg/dL
   112 mEq/L
   145 mEq/L
   28.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2111-4-18**]  09:56 PM
                             [**2111-4-18**]  11:02 PM
                             [**2111-4-19**]  12:28 AM
                             [**2111-4-19**]  05:26 AM
                             [**2111-4-19**]  02:18 PM
                             [**2111-4-20**]  06:34 AM
                             [**2111-4-20**]  03:11 PM
                             [**2111-4-21**]  03:45 AM
                             [**2111-4-22**]  04:32 AM
                             [**2111-4-23**]  03:38 AM
   WBC
   10.1
   15.0
   6.1
   8.2
   7.5
   Hct
   34.9
   32.2
   31.1
   31.1
   28.9
   Plt
   162
   213
   185
   202
   206
   Cr
   1.4
   1.5
   1.2
   1.2
   1.2
   1.2
   TropT
   0.74
   0.56
   TCO2
   31
   23
   26
   24
   Glucose
   130
   145
   102
   108
   147
   117
   Other labs: PT / PTT / INR:13.0/38.3/1.1, CK / CKMB /
   Troponin-T:148/11/0.56, Differential-Neuts:94.2 %, Lymph:4.3 %,
   Mono:1.3 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:9.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   76 YO M severe emphysema with COPD exacerbation
   1. COPD exacerbation with possible pneumonia
    - completing levaquin
    - steroids wll start to taper: 60 x 4, 40 x 4, 20 x 4, 10x 4
   2. CAD with demand ischemia
    - will likely need repeat TTE and ETT as outpatient
    - cont asa
   3. Anemia
    - f./u stool guaiac, iron studies, high dose PPI while on steroids
   4. Anxiety:
    - prn ativan as needed for aggitation
   5. Dispo: pt/ot
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2111-4-21**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 25 minutes
   Patient is critically ill